US07790770B2
To a solution of 3-bromo-5-fluorophenol (5.7 g, 30 mmol), prepared as described in Procedure 3, and imidazole (4.0 g, 60 mmol, 2 eq) in anhydrous THF (100 mL) at 0° C. was added tert-butyldiphenyl-silyl chloride (9.6 mL, 1.3 eq). The resulting mixture was stirred at room temperature for 18 h. The reaction mixture was quenched with water and extracted with hexane/EtOAc (1:1). The combined organic layers were washed with H2O (2×) and sat. NaCl (2×), dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexanes/EtOAc) to give (3-bromo-5-fluorophenoxy)(tert-butyl)diphenylsilane as colorless oil (7.5 g, yield 58%).

reactant | 3-bromo-5-fluorophenol | 30 mmol, 5.7 g | BrC=1C=C(C=C(C1)F)O | C6H4BrFO
reactant | imidazole | 60 mmol, 4.0 g, 2 eq | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenyl-silyl chloride | 9.6 mL, 1.3 eq | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (3-bromo-5-fluorophenoxy)(tert-butyl)diphenylsilane | 7.5 g, yield 58% | BrC=1C=C(O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=C(C1)F | C22H22BrFOSi
